US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-6-fluoroquinazoline-2,4(1H,3H)-dione (742 mg, 2.13 mmol), iodomethane (0.159 mL, 2.55 mmol) and Cs2CO3 (1.039 g, 3.19 mmol) in THF (20 mL) was stirred at room temperature overnight. The mixture was filtered and concentrated. The residue was dissolved in DCM and washed sequentially with saturated aqueous NaHCO3 and water, dried and concentrated to provide 3-(3-bromo-2-methylphenyl)-6-fluoro-1-methylquinazoline-2,4(1H,3H)-dione (742 mg, 96% yield). Mass spectrum m/z 363, 365 (M+H)+.

reactant | 3-(3-bromo-2-methylphenyl)-6-fluoroquinazoline-2,4(1H,3H)-dione | 2.13 mmol, 742 mg | BrC=1C(=C(C=CC1)N1C(NC2=CC=C(C=C2C1=O)F)=O)C | C15H10BrFN2O2
reactant | iodomethane | 2.55 mmol, 0.159 mL | IC | CH3I
reactant | Cs2CO3 | 3.19 mmol, 1.039 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-6-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 742 mg, 96% yield | BrC=1C(=C(C=CC1)N1C(N(C2=CC=C(C=C2C1=O)F)C)=O)C | C16H12BrFN2O2
